US04931581
Preparation of 2-benzylthio-3,5-dinitro-benzoic acid methyl ester (intermediate)
332 g (2.40 mol) of potassium carbonate are introduced into 500 ml of dimethylformamide and cooled to -5° C. 375 g (1.14 mol) of 2-chloro-3,5-dinitrobenzoic acid (75% with 25% water; transport and storage form) in 1.1 l of dimethylformamide are then added over a period of 30 minutes, during which time the internal temperature is maintained at from -5° to 4° C. 142 g (1.14 mol) of benzyl mercaptan are then added dropwise at from 0° to 3° C. over a period of 2.5 hours. The temperature is subsequently raised to 20° C. over a period of 16 hours. 170 g (1.2 mol) of methyl iodide are then added dropwise at room temperature over a period of 5 hours. The reaction mixture is then stirred for 16 hours at room temperature and afterwards poured onto 3 l of ice/water, stirred and filtered. The material obtained by filtering with suction is washed four times with 700 ml of water each time and is hydrogenated in the next stage while still damp (see Example 1.15). The dried product has a melting point of 113°-114° C.

reactant | potassium carbonate | 2.40 mol, 332 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-3,5-dinitrobenzoic acid | 1.14 mol, 375 g | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | benzyl mercaptan | 1.14 mol, 142 g | C(C1=CC=CC=C1)S | C7H8S
reactant | methyl iodide | 1.2 mol, 170 g | CI | CH3I
solvent | dimethylformamide | 1.1 l | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2-benzylthio-3,5-dinitro-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])SCC1=CC=CC=C1)=O | C15H12N2O6S
